US06627644B2
To a solution of 4-({ethyl-[7-(4-methanesulfonyl-benzoylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester (1.33 g, 2.3 mmol) in methylene chloride (30 mL) under a nitrogen atmosphere was added trifluoroacetic acid (10 mL). The reaction was stirred at room temperature for 30 min. and concentrated in-vacuo. The residue was partitioned between EtOAc (50 mL) and 10% aq. KOH (50 mL), the organic layer was separated, dried over MgSO4, filtered, and concentrated to afford N-[7-(ethyl-piperidin-4-ylmethyl-amino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-4-methanesulfonyl-benzamide (1.02 g). [M+H]+=470.

reactant | 4-({ethyl-[7-(4-methanesulfonyl-benzoylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.3 mmol, 1.33 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C1CC2=CC(=CC=C2CC1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O)CC | C31H43N3O5S
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | N-[7-(ethyl-piperidin-4-ylmethyl-amino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-4-methanesulfonyl-benzamide | 1.02 g | C(C)N(C1CCC=2C=CC(=CC2C1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O)CC1CCNCC1 | C26H35N3O3S
